US03956391
To a flask equipped with a stirrer, dropping funnel, condenser and gas inlet tube maintained under a nitrogen atmosphere there is added at room temperature 40.0 g (0.28 mole) of o-methyl-N-methyl benzamide and 250 ml. of anhydrous tetrahydrofuran. The reaction flask is immersed in an ice bath and cooled to an internal temperature of 5°C. Stirring is initiated and 380 ml. of 1.6 m. n-butyllithium (0.616 mole) in hexane is added dropwise in ca. 1 hour maintaining the temperature below 8°C. The resulting red dilithio salt is stirred at 5°C. for 1 additional hour and the reaction flask is then immersed in a dry-ice acetone bath and cooled to an internal temperature of -60°C. To the cold reaction mixture a solution of 56.8 g. (0.28 mole) of 2-(dimethylaminomethyl)-3,4-dihydro-1-(2H)-naphthalenone in 140 ml. of anhydrous tetrahydrofuran is added dropwise in ca. 45 min. maintaining the temperature between -60°C and -50° C. The resulting reaction mixture is stirred at -60°C. for 1 hour, allowed to warm to 0°C in ca 1 hour, and then treated with 200 ml. of saturated aqueous ammonium chloride while maintaining the temperature below 10°C. The resulting two layers are separated and the tetrahydrofuran layer is dried over magnesium sulfate, filtered and evaporated. The residue is chromatographed on silica gel with benzene; ethylacetate (1:1) to provide α-(2-dimethylaminomethyl-1,2,3,4-tetrahydro-1-hydroxy-1-naphthyl)-N-methyl-o-toluamide.

reactant | o-methyl-N-methyl benzamide | 0.28 mole, 40.0 g | CC1=C(C(=O)NC)C=CC=C1 | C9H11NO
reactant | n-butyllithium | 0.616 mole | C(CCC)[Li]
reactant | 2-(dimethylaminomethyl)-3,4-dihydro-1-(2H)-naphthalenone | 0.28 mole | CN(C)CC1C(C2=CC=CC=C2CC1)=O | C13H17NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | α-(2-dimethylaminomethyl-1,2,3,4-tetrahydro-1-hydroxy-1-naphthyl)-N-methyl-o-toluamide | CN(C)CC1C(C2=CC=CC=C2CC1)(O)CC=1C(=CC=CC1)C(=O)NC | C22H28N2O2
